US05831081
In HU 202889, β-cyclodextrin (β-CD) is reacted with propylene oxide in aqueous sodium hydroxide solution to give hydroxypropyl-β-cyclodextrin. The resulting sodium chloride and the propylene glycol are removed by ion exchange and precipitation of the hydroxypropylated β-cyclodextrin in large amounts of acetone, filtration, taking up the filter cake in water, distillation and, finally, spray-drying. The yield is around 90%, and the salt and propylene glycol content is 0.1%.

reactant | β-cyclodextrin | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
reactant | propylene oxide | C1C(C)O1 | C3H6O
solvent | sodium hydroxide | [OH-].[Na+]
product | hydroxypropyl-β-cyclodextrin | yield is around 90% | CC(COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)O)O)O | C63H112O42
